US07943619B2
bi) [3-(5-Fluoro-pyridin-2-yl)-isoxazol-4-yl]-methanol
To a solution of 3-(5-fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid ethyl ester (1.0 g, 4.23 mmol) in THF (52 mL) was added portionwise lithiumaluminiumhydride (89 mg, 2.33 mmol) at 0° C. and the reaction mixture was stirred at room temperature for 1 h. The mixture was then cooled to 0° C. and water (88 μL) added followed by sodium hydroxide (15% solution, 88 □L) and then again water (264 μL) and the mixture then stirred overnight at room temperature. The precipitate was then filtered off and washed with THF. The combined washings and filtrate were then evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (249 mg, 30%) which was obtained as a light yellow solid. MS: m/e=195.1 [M+H]+.

reactant | 3-(5-fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid ethyl ester | 4.23 mmol, 1.0 g | C(C)OC(=O)C=1C(=NOC1)C1=NC=C(C=C1)F | C11H9FN2O3
reactant | lithiumaluminiumhydride | 2.33 mmol, 89 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 88 μL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 264 μL | O | H2O
solvent | THF | 52 mL | C1CCOC1 | C4H8O
product | [3-(5-Fluoro-pyridin-2-yl)-isoxazol-4-yl]-methanol | 249 mg, 30% | FC=1C=CC(=NC1)C1=NOC=C1CO | C9H7FN2O2
